US06693123B2
Methyl 2-(3,3-Dimethylbutynyl)-4-nitrobenzoate
Methyl 2-bromo-4-nitrobenzoate (2.0 g, 7.7 mmol) and t-butylacetylene (0.70 g, 8.5 mmol) were dissolved into 50 mLs. of dry triethylamine to which 2 mole % of copper iodide (0.029 g, 0.15 mmol) and 5 mole. % of tetrakis(triphenylphosine)palladium(0) (0.45 g, 0.38 mmol) were added. The reaction was stirred at 400° C. for 16 hours before an additional ½ equivalent of t-butylacetylene was added. The reaction continued for an additional 24 hours at which time the reaction was completed as determined by TLC. The reaction mixture was taken up in ethyl acetate, washed with distilled water and the organic layer dried over magnesium sulfate. After concentrating, the residue was purified by chromatography (1:9 ethyl acetate/hexanes ) to give the title compound (1.7 g, 85%) as a white solid. m.p. 88-89° C.; 1H NMR (300 MHz, CDCl3) δ 8.30 (d, J=2.2 Hz, 1H, Aromatic), 8.10 (dd, J=2.3, 8.6 Hz, 1H, Aromatic), 7.99 (d, J=8.7 Hz, 1H, Aromatic), 3.99 (s, 3H, OCH3), 1.35 (s, 9H, t-Butyl); 13C NMR (75 MHz, CDCl3) δ 165.9, 149.4, 137.7, 131.4, 128.7, 126.2, 121.8, 107.1, 76.5, 52.8, 30.8, 28.6; MS m/e calc'd 261.1001, found 261.1007.

reactant | Methyl 2-bromo-4-nitrobenzoate | 7.7 mmol, 2.0 g | BrC1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C8H6BrNO4
reactant | t-butylacetylene | 8.5 mmol, 0.70 g | C(C)(C)(C)C#C | C6H10
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | t-butylacetylene | ½ equivalent | C(C)(C)(C)C#C | C6H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 0.15 mmol, 0.029 g | [Cu](I)I
product | Methyl 2-(3,3-Dimethylbutynyl)-4-nitrobenzoate | 1.7 g, 85% | CC(C#CC1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-])(C)C | C14H15NO4
